US07423050B2
4. 2-Chloro-6-fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt
Combine 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.18 g, 0.85 mmol), 2-chloro-6-fluoro-benzoyl chloride (0.318 g, 1.65 mmol), and 1,4-dioxane (10 mL). Stir and heat the mixture at reflux. After 2 hr., cool the reaction mixture to ambient temperature and concentrate. Load the mixture onto an SCX column (10 g), wash with methanol, and elute with 2M ammonia/methanol. Concentrate the eluent to obtain the free base of the title compound (0.30 g, 94%) as an oil. Dissolve the oil in methanol (5 mL) and treat with ammonium chloride (0.045 g, 0.85 mmol). Concentrate the mixture and dry under vacuum to obtain the title compound. HRMS Obs. m/z 376.1237; Calc. m/z 376.1228; m.p. 155° C. (dec).

reactant | 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.85 mmol, 0.18 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 2-chloro-6-fluoro-benzoyl chloride | 1.65 mmol, 0.318 g | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt | 0.30 g, 94% | Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C(=CC=C1)F | InChI=1S/C19H19ClFN3O2.ClH/c1-24-10-8-12(9-11-24)18(25)15-6-3-7-16(22-15)23-19(26)17-13(20)4-2-5-14(17)21;/h2-7,12H,8-11H2,1H3,(H,22,23,26);1H
